US07074863B2
To a solution of 4-hydroxy-1-indanone (25.0 g, 169 mmol) and imidazole (28.7 g, 422 mmol) in DMF (500 ml) was added tert-butyldimethylchiorosilane. The reaction mixture was stirred overnight at room temperature and treated with water (500 ml) and extracted with diethyl ether (500 ml). The organic phase was collected and dried over sodium sulfate. Evaporation gave a yellow oil which was distilled under reduced pressure to give indanone (1) (35.44 g, 135 mmol, 79.9%) as a colourless oil (120–121° C./0.1 mbar).

reactant | 4-hydroxy-1-indanone | 169 mmol, 25.0 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | imidazole | 422 mmol, 28.7 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchiorosilane | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | water | 500 ml | O | H2O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | indanone (1) | 135 mmol, 35.44 g, 79.9% | C1CC(=O)C2=CC=CC=C21 | C9H8O
